US06756395B2
To a solution of (3-methoxy-2-methyl-4-nitro-phenyl)-acetonitnle (1.03 g, 5.0 mmole) in ethanol (100 mL) was added a small amount of 10% palladium on charcoal catalyst and the mixture hydrogenated on the Parr hydrogenator at 45 psi for 3.5 hours. The reaction mixture was filtered through celite and evaporated under reduced pressure to give the (4-amino-3-methoxy-2-methyl-phenyl)acetonitrile as a solid (0.912 g, 100%). 1H NMR (CDCl3) δ: 2.25 (s, 3H), 3.56 (s, 2H), 3.72 (s, 3H), 3.85 (br, 2H), 6.60 (d, 1H, J=8.1 Hz), 6.90 (d, 1H, J=8.1 Hz).

reactant | (3-methoxy-2-methyl-4-nitro-phenyl)-acetonitnle | 5.0 mmole, 1.03 g | COC=1C(=C(C=CC1[N+](=O)[O-])CC#N)C | C10H10N2O3
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | (4-amino-3-methoxy-2-methyl-phenyl)acetonitrile | 0.912 g, 100% | NC1=C(C(=C(C=C1)CC#N)C)OC | C10H12N2O
